// characterization single-ended opamp 'op2' in PTM

simulator lang=spectre
global 0

include "ptm090.scs"

parameters vs=500m vi=0 vsup=5.0 vcm=0 vo=0 vid=0 vicm=0 \
           a0=1 cl=5p fin=1k i0=3u rl=100M \
           Lcm1=300n Lcm2=300n Lcm3=300n Ld=300n \
           Wcm1=1u   Wcm2=1u   Wcm3=1u   Wd=1u \
           Mcm11=1   Mcm21=1   Mcm31=2   Md=2 \
           Mcm12=2   Mcm22=4   Mcm32=2 

subckt ideal_balun d c p n
    K0 (d 0 p c) transformer n1=2
    K1 (d 0 c n) transformer n1=2
ends ideal_balun

// Biasing
VSUPP (VDD CM)  vsource dc=vsup/2 type=dc
VSUPN (CM  VSS) vsource dc=vsup/2 type=dc
IREF  (VDD B)   isource dc=i0     type=dc
VCM   (CM  0)   vsource dc=0      type=dc 

//DUT
DUT (B INP INN OUT VDD VSS) op

OUTIDEAL (OUT_IDEAL 0  INP 0) vcvs gain=1/a0

INPSW (INP ICLPULSE ICLSIN INPOL) switch position=1
INNSW (INN FBB             INNOL) switch position=1
OUTSW (OF  OFL  OUT)              switch position=1

IPRB0 (FBA FBB) iprobe
FBNET (FBA CM  OUT CM) vcvs gain=a0

VIPULSE (ICLPULSE CM) vsource type=pulse dc=vid \
 val0=-vs/2 val1=vs/2 period=100u delay=5u rise=1n
VISIN   (ICLSIN   CM) vsource type=sine  ampl=a0 freq=fin
 
CL (OUT CM) capacitor c=cl
RL (OUT CM) resistor  r=rl

VO (OFI CM) vsource dc=vo type=dc
L2 (OFI OF) dcfeed l=1u
R2 (OFL CM) resistor r=1M

BALUN (IND INCM INPOL INNOL) ideal_balun

VID  (IND  CM) vsource type=dc dc=vid mag=1
VICM (INCM CM) vsource type=dc dc=vicm

subckt op B INP INN O VDD VSS
    // Output NMOS Current Mirror
    MNCM31 (Z Z VSS VSS) nmos m=Mcm31 w=Wcm3 l=Lcm3
    MNCM32 (O Z VSS VSS) nmos m=Mcm32 w=Wcm3 l=Lcm3

    // Differential Pair
    MND12 (X INP CM VSS) nmos m=Md w=Wd l=Ld
    MND11 (Y INN CM VSS) nmos m=Md w=Wd l=Ld

    // Biasing Current Mirror
    MNCM11 (B  B VSS VSS) nmos m=Mcm11 w=Wcm1 l=Lcm1
    MNCM12 (CM B VSS VSS) nmos m=Mcm12 w=Wcm1 l=Lcm1

    // Output PMOS Current Mirrors
    MPCM222 (Z Y VDD VDD) pmos m=Mcm22 w=Wcm2 l=Lcm2
    MPCM221 (Y Y VDD VDD) pmos m=Mcm21 w=Wcm2 l=Lcm2
    MPCM212 (O X VDD VDD) pmos m=Mcm22 w=Wcm2 l=Lcm2
    MPCM211 (X X VDD VDD) pmos m=Mcm21 w=Wcm2 l=Lcm2
ends op

simulatorOptions options reltol=100e-6 vabstol=1e-6 iabstol=1e-12 \
                         temp=27 tnom=27 homotopy=all gmin=1e-12 rforce=1 \
                         save=selected dc_pivot_check=yes

save DUT.M*:gm DUT.M*:gds DUT.M*:id DUT.M*:gmoverid \
     DUT.M*:vdsat DUT.M*:vgs DUT.M*:vds \
     DUT.M*:vbs DUT.M*:vth DUT.M*:region \
     DUT.X DUT.Y DUT.Z DUT.B DUT.CM DUT:VDD DUT:VSS VDD VSS OUT \
     DUT:O OUT OUT_IDEAL INN INP

fb1 alter dev=INPSW param=position value=1
fb2 alter dev=INNSW param=position value=1
fb3 alter dev=OUTSW param=position value=1
fb4 alter param=vid value=0
fb5 alter param=vo value=0
fb6 alter param=a0 value=1

dcop dc save=selected title="dcop"

dcmatch (OUT CM) dcmatch mth=0.9 method=standard nsigma=1 \
    version=2 where=rawfile prevoppoint=yes title="dcmatch"

stb stb start=1 stop=10G probe=IPRB0 localgnd=0 dec=50 title="stb"
tran tran stop=100u errpreset=conservative title="tran"

noise (OUT CM) noise start=1e-3 stop=1G iprobe=VIPULSE \
    separatenoise=no save=selected title="noise"

fb7 alter param=a0 value=0.1
dc1 dc param=vid start=-vsup*0.1 stop=vsup*0.1 lin=500 title="dc1"

ol1 alter dev=INNSW param=position value=2
ol2 alter dev=INPSW param=position value=3
ol3 alter dev=OUTSW param=position value=2

xf (OUT CM) xf  start=1e-3 stop=1G dec=50 title="xf" annotate=no
ac ac freq=1 param=vicm start=-vsup stop=vsup lin=1500 title="ac" annotate=no

ol41 alter param=vid value=vs/2 
ol42 alter param=vo value=-vsup/2
dc3 dc title="dc3"

ol51 alter param=vid value=-vs/2
ol52 alter param=vo value=vsup/2
dc4 dc title="dc4"
